US05608080
Into a 200-ml four-necked flask equipped with a stirrer, a thermometer and a reflux condenser were fed 14.1 g (0.18 mole) of anhydrous sodium sulfide, 5.8 g (0.18 mole) of sulfur and 45 ml of dimethylformamide. The mixture was stirred at room temperature. Heat generation occurred and the mixture temperature increased to 45° C. After the completion of the heat generation, 21.1 g (0.15 mole) of 2-chlorobenzaldehyde was dropwise added in 10 minutes at 70°-75° C. with slight heating. The mixture was stirred at the same temperature for 4 hours. The reaction mixture was cooled to room temperature. To the mixture being stirred was dropwise added 16.3 g (0.15 mole) of methyl chloroacetate in 10 minutes under spontaneous heat generation. The mixture was stirred at 55°-60° C. for 1.5 hours. 8.1 g (0.15 mole) of sodium methoxide was added at the same temperature, followed by stirring for 30 minutes. The reaction mixture was analyzed by gas chromatography, which indicated the formation of methyl benzo[b]thiophene-2-carboxylate in an amount of 86% by areal ratio. The reaction mixture was stirred for a further 1 hour. 40 ml of water and 6 g of 48% sodium hydroxide were added and the mixture was stirred at 95° C. for 1.5 hours to give rise to hydrolysis. After the completion of the reaction, dilution with 100 ml of water was conducted. 100 ml of toluene was added and extraction was conducted at 75° C. to remove neutral components. The aqueous layer was placed in a 1-litter beaker. Thereto was dropwise added 22.1 g (0.21 mole) of 95% sulfuric acid with stirring. The resulting crystals were collected by filtration and dried to obtain 17.6 g of crude benzo[b]thiophene-2-carboxylic acid. This product was washed with toluene and redried to obtain 17.1 g of benzo[b]thiophene-2-carboxylic acid. The yield was 64.0% and the purity was 99.7%.

reactant | sodium sulfide | 0.18 mole, 14.1 g | [S-2].[Na+].[Na+]
reactant | sulfur | 0.18 mole, 5.8 g | [S] | S
reactant | 2-chlorobenzaldehyde | 0.15 mole, 21.1 g | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | methyl chloroacetate | 0.15 mole, 16.3 g | ClCC(=O)OC | C3H5ClO2
reactant | sodium methoxide | 0.15 mole, 8.1 g | C[O-].[Na+]
reactant | methyl benzo[b]thiophene-2-carboxylate | S1C2=C(C=C1C(=O)OC)C=CC=C2 | C10H8O2S
reactant | sodium hydroxide | 6 g | [OH-].[Na+]
reactant | sulfuric acid | 0.21 mole, 22.1 g | S(O)(O)(=O)=O | H2O4S
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 100 ml | O | H2O
solvent | water | 40 ml | O | H2O
solvent | dimethylformamide | 45 ml | CN(C=O)C | C3H7NO
product | benzo[b]thiophene-2-carboxylic acid | 17.6 g | S1C2=C(C=C1C(=O)O)C=CC=C2 | C9H6O2S
